US08211402B2
A. Synthesis of tert-butyl 2-(((1-methyl-1H-imidazol-2-yl)methyl)(4-sulfamoylphenethyl)amino)acetate
A solution of 4-(2-aminoethyl)benzenesulfonamide (1.40 g, 7.0 mmol), AcOH (0.30 mL) and 1-methyl-1H-imidazole-2-carboxaldehyde (0.77 g, 7.0 mmol) in DCE (40 mL) was heated at 80° C. for 30 min under nitrogen. The reaction mixture was cooled to 0° C., and treated sequentially with NaBH(OAc)3 (4.45 g, 21 mmol) and tert-butyl glyoxalate (1.80 g). The reaction mixture was stirred at room temperature overnight and quenched with water. The reaction mixture was then extracted with DCM and the organic layer was dried and concentrated under reduced pressure. The residue obtained was purified by flash chromatography over silica gel to tert-butyl 2-(((1-methyl-1H-imidazol-2-yl)methyl)(4-sulfamoylphenethyl)amino)acetate (0.63 g, 22%). 1H NMR (400 MHz, DMSO-d6) δ 7.65 (d, J=8.4 Hz, 2 H), 7.26 (s, 2 H), 7.21 (d, J=8.0 Hz, 2 H), 6.99 (d, J=0.8 Hz, 1 H), 6.73 (d, J=0.8 Hz, 1 H), 3.76 (s, 2 H), 3.38 (s, 3 H), 3.28 (s, 2 H), 2.79 (t, J=7.2 Hz, 2 H), 2.69 (t, J=6.8 Hz, 2 H), 1.40 (s, 9 H); ESMS m/z: 409 (M+H)+.

reactant | 4-(2-aminoethyl)benzenesulfonamide | 7.0 mmol, 1.40 g | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
reactant | 1-methyl-1H-imidazole-2-carboxaldehyde | 7.0 mmol, 0.77 g | CN1C(=NC=C1)C=O | C5H6N2O
reactant | NaBH(OAc)3 | 21 mmol, 4.45 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | tert-butyl glyoxalate | 1.80 g | C(C=O)(=O)OC(C)(C)C | C6H10O3
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
solvent | AcOH | 0.30 mL | CC(=O)O | C2H4O2
product | tert-butyl 2-(((1-methyl-1H-imidazol-2-yl)methyl)(4-sulfamoylphenethyl)amino)acetate | CN1C(=NC=C1)CN(CC(=O)OC(C)(C)C)CCC1=CC=C(C=C1)S(N)(=O)=O | C19H28N4O4S
